US08222399B2
To 7.5 g of trans-cinnamic acid (manufactured by Wako Pure Chemical) were added 3 g of tetraethylammonium bromide (manufactured by Wako Pure Chemical) and 100 ml of epichlorohydrin (manufactured by Wako Pure Chemical), the mixture was heated to reflux at 110° C. for 3 hours, 50 ml of distilled water was added thereto, an organic layer was separated, concentrated in vacuo at 80° C. and distilled under reduced pressure of 6 mmHg and the fraction of 130 to 160° C. was recovered to give 12 g of glycidyl cinnamate. An epoxy equivalent of this glycidyl cinnamate was 240.3.

reactant | trans-cinnamic acid | 7.5 g | C(\C=C\C1=CC=CC=C1)(=O)O | C9H8O2
reactant | epichlorohydrin | 100 ml | C(Cl)C1CO1 | C3H5ClO
catalyst | tetraethylammonium bromide | 3 g | [Br-].C(C)[N+](CC)(CC)CC
solvent | water | 50 ml | O | H2O
product | glycidyl cinnamate | 12 g | C(C=CC1=CC=CC=C1)(=O)OCC1CO1 | C12H12O3
